US04558047
A solution of sodium metaperiodate (2.13 g) in water (25 ml) was added to a suspension of adenosine (2.67 g) and 2-aminopyrimidine in water (25 ml) at 15° C. The mixture was stirred at ambient temperature for five hours. To the reaction mixture was added methanol (50 ml). A precipitate was filtered off and the filtrate was evaporated in vacuo at 35° C. The residue was triturated with acetone to give 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]adenine (3.64 g).

reactant | sodium metaperiodate | 2.13 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | adenosine | 2.67 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | 2-aminopyrimidine | NC1=NC=CC=N1 | C4H5N3
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]adenine | 3.64 g | OC1N(C([C@H](O[C@H]1N1C2=NC=NC(=C2N=C1)N)CO)O)C1=NC=CC=N1 | C14H16N8O4
